US07655666B2
A solution of 2-acetylamino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester (260 mg, 0.82 mmol) in MeOH (2.6 mL) and water (0.54 mL) was treated with concentrated sulfuric acid (0.26 mL) and the mixture was heated to 60° C. for 1 h. It was then allowed to cool to r.t., and diluted with EtOAc. This mixture was washed once with aqueous sodium hydrogencarbonate (pH=8), once with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel 60, hexanes/EtOAc 100:0→80:20) to furnish 2-amino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester (185 mg, 0.67 mmol, 82%) as a white powder, m.p. 141-144° C., ESI-MS: m/z 276 [M+H]+.

reactant | 2-acetylamino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester | 0.82 mmol, 260 mg | COC(C1=C(C=C(C(=C1)C(CC)=O)C(F)(F)F)NC(C)=O)=O | C14H14F3NO4
reactant | sulfuric acid | 0.26 mL | S(O)(O)(=O)=O | H2O4S
solvent | MeOH | 2.6 mL | CO | CH4O
solvent | water | 0.54 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-amino-5-propionyl-4-trifluoromethyl-benzoic acid methyl ester | 0.67 mmol, 185 mg, 82% | COC(C1=C(C=C(C(=C1)C(CC)=O)C(F)(F)F)N)=O | C12H12F3NO3
